US04523030
In a manner analogous to that described in Example 5, starting from 26.6 g of aluminium trichloride, 9.61 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester and 20.95 g of 3,4-dichlorobenzoyl chloride there is obtained 4-(3,4-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester having a melting point of 95°-96°.

reactant | aluminium trichloride | 26.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 9.61 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | 3,4-dichlorobenzoyl chloride | 20.95 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | 4-(3,4-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=CC(=C(C=C2)Cl)Cl)=O)O | C17H10Cl2O4
